US07868022B2
Step G: 4-(2-Amino-7-ethoxy-6-phenoxy-quinolin-3-yl)-N-(3,3-dimethyl-butyl)-4-(tetrahydro-pyran-4-yl)-butyramide hydrochloride
To a solution of 5-cyano-6-(4-ethoxy-2-nitro-5-phenoxy-phenyl)-4-(tetrahydro-pyran-4-yl)-hex-5-enoic acid (3,3-dimethyl-butyl)-amide (160 mg, 0.28 mmol) in methanol was added Zn (0.4 g) and NH4Cl (0.10 g). The resulting mixture was treated under μW at 95° C. for 20 min, filtered through Celite® and concentrated. The resulting crude product was purified by chromatography (silica gel, 0-2% methanol in methylene chloride) to yield a white solid that was converted to the HCl salt of the title compound by reacting with 1M HCl in diethyl ether.

reactant | 5-cyano-6-(4-ethoxy-2-nitro-5-phenoxy-phenyl)-4-(tetrahydro-pyran-4-yl)-hex-5-enoic acid (3,3-dimethyl-butyl)-amide | 0.28 mmol, 160 mg | CC(CCNC(CCC(C(=CC1=C(C=C(C(=C1)OC1=CC=CC=C1)OCC)[N+](=O)[O-])C#N)C1CCOCC1)=O)(C)C | C32H41N3O6
reactant | NH4Cl | 0.10 g | [NH4+].[Cl-]
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
catalyst | Zn | 0.4 g | [Zn] | Zn
product | 4-(2-Amino-7-ethoxy-6-phenoxy-quinolin-3-yl)-N-(3,3-dimethyl-butyl)-4-(tetrahydro-pyran-4-yl)-butyramide hydrochloride | Cl.NC1=NC2=CC(=C(C=C2C=C1C(CCC(=O)NCCC(C)(C)C)C1CCOCC1)OC1=CC=CC=C1)OCC | InChI=1S/C32H43N3O4.ClH/c1-5-38-28-21-27-23(20-29(28)39-24-9-7-6-8-10-24)19-26(31(33)35-27)25(22-13-17-37-18-14-22)11-12-30(36)34-16-15-32(2,3)4;/h6-10,19-22,25H,5,11-18H2,1-4H3,(H2,33,35)(H,34,36);1H
